US08114872B2
N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(5-(1-(cyclopropylamino)ethyl)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-amine
Slowly add methanesulfonyl chloride (0.04 mL, 0.55 mmol) to a solution of newly synthesized 1-(4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)-5-fluoropyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-fluoropyridin-3-yl)ethanol (240 mg, 0.50 mmol) and triethylamine (0.14 mL, 1.0 mmol) in methylene chloride (5 mL) at −78° C. After stirring the mixture at the same temperature for another 60 min, add cyclopropylamine (0.040 mL, 0.55 mmol) and leave it overnight at RT. Heat it to 45° C. for 5 h, cool to RT, and remove the solvent. Purify by column chromatography (10% methanol in DCM) to afford the title compound (42 mg 17%). MS (ES) m/z 519 [M+1]+.

reactant | methanesulfonyl chloride | 0.55 mmol, 0.04 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-(2-(2-(2-(1H-1,2,3-triazol-1-yl)ethylamino)-5-fluoropyrimidin-4-yl)benzo[b]thiophen-7-yl)-6-fluoropyridin-3-yl)ethanol | 0.50 mmol, 240 mg | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=C(C=NC(=C2)F)C(C)O)F | C23H19F2N7OS
reactant | triethylamine | 1.0 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropylamine | 0.55 mmol, 0.040 mL | C1(CC1)N | C3H7N
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-4-(7-(5-(1-(cyclopropylamino)ethyl)-2-fluoropyridin-4-yl)benzo[b]thiophen-2-yl)-5-fluoropyrimidin-2-amine | 42 mg, 17% | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=CC(=NC=C2C(C)NC2CC2)F)F | C26H24F2N8S
